US07875730B2
A mixture of Carvedilol salicylate (25.0 g, 45.95 mmole) and ethyl acetate (250 ml) are cooled to 10° C. to 15° C. To this solution triethylamine (10.16 g, 100.63 mmole) is added within 30 minutes. Slowly temperature is raised to 25° C. to 35° C. and maintained at the same temperature for next 30 minutes followed by addition of sodium chloride solution (50 g sodium chloride+250 ml water) and stirred for 30 minutes. Layers separated and ethyl acetate layer is washed with solution of sodium chloride (50 g) and sodium carbonate (100 g) prepared in 250 ml water. The ethyl acetate layer is charcoalised with 2.5 g activated carbon followed by filtration through hyflosupercell. The hyflosupercell bed is washed with two 25 ml ethyl acetate. All ethyl acetate layers are combined and concentrated by removal of ethyl acetate ca. 45% at 75° C. to 80° C. The resulting solution is slowly cooled 25° C. to 40° C. and maintained for 3 hours at this temperature. The product is filtered, followed by two 12.5 ml wash with ethyl acetate and the wet cake dried at 50° C. to 55° C. till constant weight gives 17.0 g of Carvedilol (Recovery=68%).

reactant | Carvedilol salicylate | 45.95 mmole, 25.0 g | COC=1C=CC=CC1OCCNCC(COC=2C=CC=C3C2C=4C=CC=CC4N3)O.C(C=1C(O)=CC=CC1)(=O)[O-]
reactant | triethylamine | 100.63 mmole, 10.16 g | C(C)N(CC)CC | C6H15N
reactant | sodium chloride | 250 ml, 50 g | [Cl-].[Na+]
solvent | ethyl acetate | C(C)(=O)OCC | C4H8O2
solvent | ethyl acetate | 250 ml | C(C)(=O)OCC | C4H8O2
product | Carvedilol | 17.0 g, 68% | COC=1C=CC=CC1OCCNCC(COC=2C=CC=C3C2C=4C=CC=CC4N3)O | C24H26N2O4
